US09212182B2
A vial was charged with 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.100 g, 0.214 mmol), 3,3-difluoroazetidine hydrochloride (0.055 ml, 0.428 mmol), and potassium carbonate (0.053 g, 0.384 mmol). DMSO (1.070 ml) was added and the reaction was stirred at 130° C. overnight. The reaction was filtered through a syringe filter. The resulting solution was purified via reverse phase HPLC (Xbridge 19×100 mm, 10 um, 40 ml/min, 25-85% 0.1% TFA in Acetonitrile) to afford 1-(5-chloro-6-(3,3-difluoroazetidin-1-yl)-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (0.038 g, 0.073 mmol, 33.9% yield) as a brown oily solid. 1H NMR (500 MHz, DMSO-d6) δ=11.65 (br. s., 1H), 8.73 (d, J=1.7 Hz, 1H), 8.35 (d, J=2.0 Hz, 1H), 8.20 (d, J=9.7 Hz, 1H), 7.92-7.80 (m, 2H), 6.97 (d, J=9.0 Hz, 1H), 6.78 (d, J=9.6 Hz, 1H), 6.44 (d, J=1.7 Hz, 1H), 4.68 (t, J=12.6 Hz, 4H), 3.75 (s, 3H). m/z (ESI) 524.0 (M+H)+.

reactant | 1-(5,6-dichloro-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.214 mmol, 0.100 g | ClC=1C=C(C(=NC1Cl)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C18H12Cl2N4O5S
reactant | 3,3-difluoroazetidine hydrochloride | 0.428 mmol, 0.055 ml | Cl.FC1(CNC1)F
reactant | potassium carbonate | 0.384 mmol, 0.053 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1.070 ml | CS(=O)C | C2H6OS
product | 1-(5-chloro-6-(3,3-difluoroazetidin-1-yl)-2-methoxypyridin-3-yl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.073 mmol, 0.038 g, 33.9% yield | ClC=1C=C(C(=NC1N1CC(C1)(F)F)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C21H16ClF2N5O5S
